US06403595B1
To a solution of 6-(6-chloropyrimidine-4-yl)-1-oxa-6-azaspiro[2,5]octane (4.00 g) and 4-(tert-butoxycarbonyl)-2-piperazinone (3.38 g) in tert-butylalcohol (50 ml) was added potassium tert-butoxide (0.57 g), and the mixture was stirred at 80° C. overnight. The reaction solution was concentrated, and the residue was diluted with ethyl acetate (100 ml), washed with 0.5N hydrochloric acid and saturated brine, dried and concentrated. The residue was purified with silica gel column chromatography (eluent:ethyl acetate) and crystallized from a mixture of ethyl acetate and diethylether to give colorless crystals of 4-(tert-butoxycarbonyl)-1-[1-(6-chloro-4-pyrimidinyl)-4-hydroxypiperidin-4-ylmethyl]piperazin-2-one (5.51 g).

reactant | 6-(6-chloropyrimidine-4-yl)-1-oxa-6-azaspiro[2,5]octane | 4.00 g | ClC1=CC(=NC=N1)N1CCC2(CO2)CC1 | C10H12ClN3O
reactant | 4-(tert-butoxycarbonyl)-2-piperazinone | 3.38 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
reactant | potassium tert-butoxide | 0.57 g | CC(C)([O-])C.[K+]
solvent | tert-butylalcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | 4-(tert-butoxycarbonyl)-1-[1-(6-chloro-4-pyrimidinyl)-4-hydroxypiperidin-4-ylmethyl]piperazin-2-one | 5.51 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=NC=NC(=C1)Cl)O)=O | C19H28ClN5O4
